US07157487B2
(Step 2) Synthesis of 4-((2S,4S)-4-hydroxy-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-2-pyrrolidinylmethoxy)benzoic acid
To a solution of methyl 4-((2S,4S)-4-acetoxy-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-2-pyrrolidinylmethoxy)benzoate (610 mg, 1.09 mmol) in THF (40 ml) was added 0.25N NaOH (40 ml). The resulting mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated under reduced pressure. The residue was acidified with 1N HCl, followed by extraction with a chloroform-methanol (10/1) mixture. The extract was washed with water and brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to remove the solvent, whereby the title compound (500 mg, 92%) was obtained as a pale pink amorphous substance.

reactant | methyl 4-((2S,4S)-4-acetoxy-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-2-pyrrolidinylmethoxy)benzoate | 1.09 mmol, 610 mg | C(C)(=O)O[C@H]1C[C@H](N(C1)C(CC1=CC2=C(N=C(O2)NC2=C(C=CC=C2)C)C=C1)=O)COC1=CC=C(C(=O)OC)C=C1 | C31H31N3O7
reactant | NaOH | 0.25N, 40 ml | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-((2S,4S)-4-hydroxy-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-2-pyrrolidinylmethoxy)benzoic acid | O[C@H]1C[C@H](N(C1)C(CC1=CC2=C(N=C(O2)NC2=C(C=CC=C2)C)C=C1)=O)COC1=CC=C(C(=O)O)C=C1 | C28H27N3O6
